US06870978B2
2,2′-Bis-(trifluoromethyl)4,4′-diaminobiphenyl (4, PFMB)
A hydrogenation bottle was charged with 40.0 g of 2,2′-bis(trifluoromethyl)-4,4′-dinitrobiphenyl, 0.6 g of 5% palladium on activated carbon and 200 ml of ethyl acetate. The bottle was secured on a Parr hydrogenation apparatus, flushed five times with hydrogen, and then pressurized with hydrogen to 56 psi. The pressure was maintained, and the vessel was agitated for several hours. After the reaction mixture was filtered and about 200 ml of hexanes were added. The crystals that formed were filtered to afford 30.2 g (90%) of product.

reactant | 2,2′-bis(trifluoromethyl)-4,4′-dinitrobiphenyl | 40.0 g | FC(C1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)(F)F | C14H6F6N2O4
catalyst | palladium on activated carbon | 0.6 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2,2′-Bis-(trifluoromethyl)4,4′-diaminobiphenyl | 30.2 g, 90% | FC(C1=C(C=CC(=C1)N)C1=C(C=C(C=C1)N)C(F)(F)F)(F)F | C14H10F6N2
